US05576335
A mixture of 1-(3-amino-2-pyridyl)-3-heptylurea (0.80 g), 3,5-di-t-butyl-4-hydroxybenzoic acid (0.80 g) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide monohydrochloride (0.67 g) was stirred in dichloromethane (35 ml) at room temperature for 3 hrs. After filtering off the insolubles and distilling off the solvent, the residue was purified by a silica gel column chromatography (chloroform:methanol=30:1) to give N-[2-(3-heptylureido)-3-pyridyl]-3,5-di-t-butyl-4-hydroxybenzamide (1.34 g, 87%) as a non-crystallizable solid.

reactant | 1-(3-amino-2-pyridyl)-3-heptylurea | 0.80 g | NC=1C(=NC=CC1)NC(=O)NCCCCCCC | C13H22N4O
reactant | 3,5-di-t-butyl-4-hydroxybenzoic acid | 0.80 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide monohydrochloride | 0.67 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | N-[2-(3-heptylureido)-3-pyridyl]-3,5-di-t-butyl-4-hydroxybenzamide | 1.34 g, 87% | C(CCCCCC)NC(NC1=NC=CC=C1NC(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O)=O | C28H42N4O3
